2182-08-25 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   c/o
gas pains
 in chest; VSS, EKG did not show any ST-T wave changes;
   pain relieved with maalox
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-8-23**] 12:15 PM
   Piperacillin - [**2182-8-25**] 03:08 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: pt
s son recently passed away
   from liver disease related to ETOH use
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o constant diffuse
gas pain
 [**3-24**] beginning R
   abdomen and radiating throughout body; no crushing CP, SOB, N/V
   Flowsheet Data as of  [**2182-8-25**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.2
   HR: 113 (99 - 115) bpm
   BP: 133/54(67) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 6 (-2 - 11)mmHg
   Total In:
                                                                  2,419 mL
                                                                    434 mL
   PO:
   TF:
   IVF:
                                                                  2,419 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    305 mL
   Urine:
                                                                  1,645 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    774 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: 7.33/28/58/13/-9
   PaO2 / FiO2: 83
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   10.6 g/dL
   138 mg/dL
   2.6 mg/dL
   13 mEq/L
   4.0 mEq/L
   83 mg/dL
   114 mEq/L
   143 mEq/L
   31.6 %
   21.8 K/uL
        [image002.jpg]
                             [**2182-8-22**]  10:45 PM
                             [**2182-8-23**]  02:55 AM
                             [**2182-8-23**]  04:44 AM
                             [**2182-8-23**]  12:27 PM
                             [**2182-8-23**]  12:48 PM
                             [**2182-8-23**]  09:42 PM
                             [**2182-8-24**]  05:03 AM
                             [**2182-8-24**]  07:28 AM
                             [**2182-8-25**]  03:03 AM
   WBC
   14.7
   15.8
   19.5
   21.8
   Hct
   30.4
   28.8
   29.1
   30.4
   30.2
   31.6
   Plt
   [**Telephone/Fax (3) 148**]26
   Cr
   3.0
   2.8
   2.5
   2.5
   2.6
   TropT
   <0.01
   <0.01
   0.01
   TCO2
   14
   15
   Glucose
   176
   155
   173
   137
   138
   Other labs: PT / PTT / INR:16.7/55.0/1.5, CK / CKMB /
   Troponin-T:255/7/0.01, ALT / AST:106/219, Alk Phos / T Bili:750/2.9,
   Amylase / Lipase:155/284, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:5.3 %, Mono:6.6 %, Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:2.1
   g/dL, LDH:495 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   80 y/o M h/o CAD s/p CABG, CVA, HTN, COPD p/w atypical chest pain,
   sepsis, and hypotension in the setting of PNA and a new diagnosis of CA
   metastatic to the liver.
   #ACS
 new lateral ST-depr. assoc. with atypical chest pain, different
   from pain described on admission, c/w unstable angina more likely than
   demand ischemia; CE
s neg x 2; given O2, morphine, SL nitro, [**Telephone/Fax (3) 119**]
   -morphine, nitro PRN until pain-free f/b repeat EKG
   - consider Nitro gtt if pain returns
   -heparin gtt, goal PTT: 60-80
   -cont. [**Last Name (LF) 120**], [**First Name3 (LF) 119**]
   -cont. cycle CE
   -start low-dose B-blocker if BP allows
   -telemetry
   -monitor EKG for resolution of ST changes.
   #Sepsis - Most likely from aspiration PNA, also consider
   post-obstructive PNA from ? primary lung CA, hepatobiliary source, C.
   diff
   - monitor UOP for volume status
 avoid further boluses if possible.
   Give pressors & fluids if needed.
   -place A-line for better BP monitoring
   -cont. zosyn for G-/anaerobic resp/GI flora (day [**5-27**])
   -rec'd 1 dose vanco @ OSH prior to trough level; restart vanco (day
   [**5-27**]) , recheck trough on AM [**8-26**]
   -add azithromycin (day [**4-17**]) for cov
g atypical resp organisms
   -blood, urine Cx pending; will send C. diff toxin (but refrain from
   treating unless pos) and sputum Cx if possible
   -consider diagnostic bronch if patient requires intubation.
   -aspiration precautions
   #Hypotension - DDx incl. hypovolemia (poor intake, diarrhea, ? GI blood
   loss) vs. sepsis (as above) vs. adrenal insufficiency (was recently
   started on steroid taper) ; less likely are cardiogenic shock (low CVP,
   no pulm edema, warm & dry extremities, CE
s WNL), PE (mildly hypoxic
   but not tachycardic, no evidence of RH strain on EKG; anticoagulating
   for ACS anyway), pericardial effusion/tamponade (JVP not elevated, no
   distant heart sounds)
   -Treat for sepsis and hypovolemia as above with aggressive fluid
   repletion; monitor UOP closely (goal > 40 cc/hr)
    -AM cortisol difficult to interpret as patient is on steroid therapy
   and received a dose of HC @ OSH ED; will cont. on outpatient dose of
   prednisone 40 mg daily; may require stress-dose steroids if remains
   hypotensive
   #Anemia - no known b/l; low MCV suggests Fe-deficiency likely in the
   setting of malignancy and chronic GI blood loss; may be a component of
   ACD; guaiac +
   -follow clinically & Hct [**Hospital1 **] while on heparin gtt
   -T&C, x-fuse for < 28%
   #metabolic acidosis -  Anion gap closed.  Likely due to fluid
   resusitation with NS.
   -avoid further fluid boluses if possible.
   -ABG suggestive of concomitant respiratory alkalosis
   -LR for volume repletion in light of hyperchloremia
   #ARF - BUN/Cr ratio, low urine NA c/w pre-renal azotemia, ddx includes
   ATN in the setting of hypotension and/or sepsis; microscopic hematuria,
   pyuria and active urinary sediment require more attention; foley in
   place, draining so low c/f obstruction
   -Continue to monitor
   -fluid challenge, BP support as above
   -monitor serum lytes
   -goal UOP > 40 cc/hr
   -dose meds for GFR<20
   #Asymmetical LE edema - calves nontender, nonerythematous, but at high
   risk given malignancy
   -duplex U/S
neg for DVT bilat.
   -systemic anticoagulation for ACS
   #Abnormal LFT's
 Trending down slightly; diffuse metastatic disease (?
   esophageal vs. lung vs. colon primary) by RUQ U/S, but could not
   adequately visualize biliary tree. Low albumin/elevated INR suggest
   diminished synthetic function. Markedly elevated Alk phos/AST with T
   Bili 2X ULN suggests a cholestatic pattern of such as intrahepatic
   cholestasis (i.e. in the setting of sepsis) or biliary obstruction
   (given high amylase/lipase)
   -will pursue contrast CT when clinically more stable, renal fxn
   improved
   #Dysphagia - c/f esophageal CA vs. lung CA with extrinsic esophageal
   compression (in light of weight loss, h/o ETOH/tob use); significant
   risk factor for aspiration; hiatal hernia appreciated on CXR
   -GI C/S re: EGD when clinically more stable
   -aspiration precautions
   -consider speech/swallow C/S when more stable
   #COPD - no s/sx acute exacerbation
   -cont. outpatient INH meds
   -albuterol nebs PRN
   -prednisone 40 mg daily
   -Inhaled moisturized air for dry mouth
   -Insentive spirometry.
   #HTN
   -holding antihypertensives while BP low
   #Hyperlipidemia
   -holding crestor [**3-16**] elevated LFT's
   #Chronic back pain
   -lidocaine patch
   -avoid NSAIDs, ibuprofen since ARF and at risk for GIB
   -avoid tylenol since LFTs elevated
 if required can have 2g max per
   day.
   #F/E/N
   -LR boluses (in light of hyperchloremia) to maintain CVP, MAP as above,
   UOP > 40 cc/hr
   -NPO due to concern re: swallowing ability
 meds okay to take PO
   -monitor lytes, replete PRN
   #PPx - PPI, heparin gtt
   #Access - R IJ, PIV; art-line
   #Contact - [**Name (NI) 121**], granddaughter ([**Telephone/Fax (1) 122**] (unclear if she's HCP)
   patient's home phone ([**Telephone/Fax (1) 123**]
   #Code status - FULL (per discussion with patient)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-8-23**] 12:58 AM
   18 Gauge - [**2182-8-23**] 12:58 AM
   Presep Catheter - [**2182-8-23**] 12:59 AM
   Arterial Line - [**2182-8-23**] 08:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2182-08-26 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST PAIN - At [**2182-8-26**] 02:37 AM
   given 1 tab sl, 2mg IVP morphine, and 30cc maalox
   Low UOP 15mL/hr
   Low CVP 2-4 this am; but still responding to fluids
   Given multiple boluses (1500mL IVF this am)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2182-8-25**] 08:28 AM
   Piperacillin - [**2182-8-25**] 10:51 AM
   Vancomycin - [**2182-8-25**] 10:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-8-25**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2182-8-25**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-26**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 113 (90 - 124) bpm
   BP: 133/54(67) {0/0(0) - 0/0(0)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 7 (4 - 12)mmHg
   Total In:
                                                                  3,390 mL
                                                                    565 mL
   PO:
   TF:
   IVF:
                                                                  3,390 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    150 mL
   Urine:
                                                                  1,040 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,350 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: 7.34/26/102/14/-9
   PaO2 / FiO2: 291
   Physical Examination
   Gen: Labored breathing, states some pain remains, unable to localize
   his pain
   CV: Tachycardic, no M/R/G
   Lungs: decreased breath sounds, no wheezing/stridor anteriorly; labored
   breathing tachypneic on facemask, cough
   Abd: +bs, soft, ntnd
   Ext: 1+ edema of LLE,  mild edema of  BUE, 1+ distal pulses
   Labs / Radiology
   187 K/uL
   9.9 g/dL
   140 mg/dL
   2.5 mg/dL
   14 mEq/L
   3.9 mEq/L
   80 mg/dL
   118 mEq/L
   145 mEq/L
   29.7 %
   23.8 K/uL
        [image002.jpg]
                             [**2182-8-23**]  02:55 AM
                             [**2182-8-23**]  04:44 AM
                             [**2182-8-23**]  12:27 PM
                             [**2182-8-23**]  12:48 PM
                             [**2182-8-23**]  09:42 PM
                             [**2182-8-24**]  05:03 AM
                             [**2182-8-24**]  07:28 AM
                             [**2182-8-25**]  03:03 AM
                             [**2182-8-25**]  12:31 PM
                             [**2182-8-26**]  01:31 AM
   WBC
   15.8
   19.5
   21.8
   23.8
   Hct
   28.8
   29.1
   30.4
   30.2
   31.6
   29.7
   Plt
   [**Telephone/Fax (3) 150**]87
   Cr
   2.8
   2.5
   2.5
   2.6
   2.5
   TropT
   <0.01
   <0.01
   0.01
   0.02
   0.03
   TCO2
   14
   15
   15
   Glucose
   155
   173
   137
   138
   140
   Other labs: PT / PTT / INR:16.9/29.5/1.5, CK / CKMB /
   Troponin-T:118/6/0.03, ALT / AST:106/219, Alk Phos / T Bili:750/2.9,
   Amylase / Lipase:155/284, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:5.3 %, Mono:6.6 %, Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:2.1
   g/dL, LDH:495 IU/L, Ca++:8.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80 y/o M h/o CAD s/p CABG, CVA, HTN, COPD p/w atypical chest pain,
   sepsis, and hypotension in the setting of PNA and a new diagnosis of CA
   metastatic to the liver.
   #Sepsis - Most likely from aspiration PNA, also consider
   post-obstructive PNA from ? primary lung CA, hepatobiliary source, C.
   diff; BP has been responsive to IVF boluses but remains low.    Pt is
   currently tachycardic in the face of hypotension.
   - Repeat echo today: to evaluate acute change in cardiac function
   - titrate fluids to CVP 8-12, MAP >65, UOP > 30
   -blood, urine Cx pending; will send C. diff toxin (but refrain from
   treating unless pos) and sputum Cx if possible
   -PNA: cont. vanco/zosyn for resp/GI cov
g; cont. azithro for atypical
   cov
   -aspiration precautions
   -consider PE as obstructive cause for tachycardia; look at echo;
   restart heparin gtt; cannot obtain contrast CT due to ARF at this time.
   #gap metabolic acidosis -  ABG c/w met acidosis + resp alkalosis;
   contributing etiologies incl. ARF, NS expansion acidosis, resolving
   lactic acidosis
   -LR for volume repletion in light of hyperchloremia
   -follow ABGs
   #Chest pain syndrome
 reversible lateral ST-depr. assoc. with atypical
   chest pain c/w demand ischemia in the setting of low diastolic BP
   sepsis - neg CE
s, absence of WMA on echo; tx with heparin gtt x 48 h;
   most recent episode of pain not assoc. with EKG changes and resolved
   with maalox
   -morphine, nitro SL PRN
   -cont. [**Last Name (LF) 120**], [**First Name3 (LF) 119**]
   -telemetry
   #ARF - BUN/Cr ratio, low urine NA c/w pre-renal azotemia, however Cr
   has leveled off above b/l after aggressive volume repletion; cellular
   casts in sediment invokes AIN vs. ATN vs. GN; foley in place, draining
   so low c/f obstruction
   -goal UOP > 40 cc/hr
   -cont. volume repletion as above, consider repeat urine lytes,
   sediment, renal U/S if no further improvement with hydration
   -dose meds for GFR<20
   #Abnormal LFT's
 stable; diffuse metastatic disease (? esophageal vs.
   lung vs. colon primary) by RUQ U/S, but could not adequately visualize
   biliary tree. Low albumin/elevated INR suggest diminished synthetic
   function. Markedly elevated Alk phos/AST with T Bili 2X ULN suggests a
   cholestatic pattern of such as intrahepatic cholestasis (i.e. in the
   setting of sepsis) or biliary obstruction (given high amylase/lipase)
   -will pursue contrast CT vs. MRCP when clinically more stable, renal
   fxn improved
   -consider head CT to eval for brain mets should pt require additional
   systemic anticoagulation
   .
   #Dysphagia - c/f esophageal CA vs. lung CA with extrinsic esophageal
   compression (in light of weight loss, h/o ETOH/tob use); significant
   risk factor for aspiration; hiatal hernia appreciated on CXR
   - attempt NG tube placement today
   -GI C/S re: utility of EGD when clinically more stable
   -aspiration precautions
   -consider speech/swallow C/S when more stable
   .
   #COPD - no si/sx acute exacerbation
   -admitted on prednisone taper; cont. as initial c/f AI in the setting
   of hypotension
   -cont. outpatient INH meds
   -albuterol nebs PRN
   -chest PT
   -INH moisturized air for dry mouth
   -Incentive spirometry
   .
   #HTN
   -holding antihypertensives while BP low
   .
   #Hyperlipidemia
   -holding crestor [**3-16**] elevated LFT's
   #Chronic back pain
   -lidocaine patch
   -avoid NSAIDs, ibuprofen since ARF and report of guaiac + on admission
   -avoid tylenol since LFTs elevated
 if required can have 2g max per
   day.
   .
   #F/E/N
   -LR boluses (in light of hyperchloremia) to maintain CVP, MAP, UOP as
   above
   - attempt NG tube placement today
   .
   #PPx - PPI, SQH
   .
   #Access - R IJ, PIV; art-line
   .
   #Contact/HCP - [**Name (NI) 121**], granddaughter ([**Telephone/Fax (1) 122**] (HCP)
   patient's home phone ([**Telephone/Fax (1) 123**]
   #Code status - FULL (per discussion with patient and HCP)
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-8-23**] 12:58 AM
   18 Gauge - [**2182-8-23**] 12:58 AM
   Presep Catheter - [**2182-8-23**] 12:59 AM
   Arterial Line - [**2182-8-23**] 08:04 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: granddaughter [**Name (NI) 121**] (HCP)
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2182-08-26 10:51:00 Physician Attending Progress Note
Chief Complaint: Sepsis-Secondary to PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CHEST PAIN - At [**2182-8-26**] 02:37 AM
   given 1 tab sl, 2mg IVP morphine, and 30cc maalox
   Patient with some tachycardia persisting during event
   -Tachycardia-
   -CVP was decreased
   -Patient with continued increased thirst
   -3 liters given over past 24 hours
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2182-8-25**] 08:28 AM
   Piperacillin - [**2182-8-25**] 10:51 AM
   Vancomycin - [**2182-8-25**] 10:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-8-26**] 08:48 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-8-26**] 08:48 AM
   Heparin Sodium (Prophylaxis) - [**2182-8-26**] 08:48 AM
   Morphine Sulfate - [**2182-8-26**] 09:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2182-8-26**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 122 (90 - 126) bpm
   BP: 105/42(58) {104/42(58) - 105/48(63)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 7 (3 - 12)mmHg
   Total In:
                                                                  3,390 mL
                                                                  2,226 mL
   PO:
   TF:
   IVF:
                                                                  3,390 mL
                                                                  2,226 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    330 mL
   Urine:
                                                                  1,040 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,350 mL
                                                                  1,896 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.34/26/102/14/-9
   PaO2 / FiO2: 291
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic: CVP shows significant
   inspiratory fall
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), Tachcardia.
   distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: ), Increased tachypnea
   Abdominal: Soft
   Extremities: Right: Trace, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   194 K/uL
   136 mg/dL
   2.5 mg/dL
   14 mEq/L
   3.8 mEq/L
   84 mg/dL
   116 mEq/L
   143 mEq/L
   29.8 %
   23.6 K/uL
        [image002.jpg]
                             [**2182-8-23**]  04:44 AM
                             [**2182-8-23**]  12:27 PM
                             [**2182-8-23**]  12:48 PM
                             [**2182-8-23**]  09:42 PM
                             [**2182-8-24**]  05:03 AM
                             [**2182-8-24**]  07:28 AM
                             [**2182-8-25**]  03:03 AM
                             [**2182-8-25**]  12:31 PM
                             [**2182-8-26**]  01:31 AM
                             [**2182-8-26**]  06:33 AM
   WBC
   15.8
   19.5
   21.8
   23.8
   23.6
   Hct
   28.8
   29.1
   30.4
   30.2
   31.6
   29.7
   29.8
   Plt
   [**Telephone/Fax (3) 150**]87
   194
   Cr
   2.8
   2.5
   2.5
   2.6
   2.5
   2.5
   TropT
   <0.01
   <0.01
   0.01
   0.02
   0.03
   TCO2
   15
   15
   Glucose
   155
   173
   137
   138
   140
   136
   Other labs: PT / PTT / INR:16.9/29.5/1.5, CK / CKMB /
   Troponin-T:118/6/0.03, ALT / AST:106/219, Alk Phos / T Bili:750/2.9,
   Amylase / Lipase:155/284, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:5.3 %, Mono:6.6 %, Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:2.1
   g/dL, LDH:495 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR [**2182-8-26**]-
   CVL into R atrium
   Bilateral pleural effusions suggested
   Some evidence of increased interstitial markings
   Has some suggestion of left upper lobe intfiltrate
   Assessment and Plan
   80 yo male with admission with concering symptoms of chest pain in the
   setting of pneumonia and now has evidence of metastatic disease in the
   liver but with primary tumor not well defined.  He now has hospital
   course significant for persistent intermittent episodes of chest
   discomfort and now maintains a resting tachycardia.  This raises
   significant concern in the setting of rising WBC count and suggestion
   of lower extermity edema.
   1)Tachycardia-The differential for this is broad.  He clearly has it
   persistent with wake or sleep state to make anxiety/pain as source of
   tachycardia much less likely.  He has significant inspiratory fall in
   CVP trace with respiration and admits to thirst which is suggestive of
   some volume depletion.  This is argued against by the bilateral pleural
   effusions and increased intersitial markings.  He has had transient
   response to fluids only.   Will need to determine source
   -Check CvO2
   -F/U with fluid bolus changes to look for response
   -Check albumin for oncotic pressure at this time
   -Echo is reasonable for conern of evolution in pericardial effusion in
   setting of pleural effusions if not stabilized.
   -PE raised as a possibility and in absence of capacity to use
   alternative explanations may need to continue Rx with empiric heparin
   if altenative sources not seen and improvement not achieved.
   -Further evaluation and treatment will have to be driven by source of
   circulatory compromise.
   2)Coronary Artery Disease-Patient with intermittent chest discomfort
   which is reversed with supportive Rx.  He has had no signs of new
   myocardial infarction but has concerning intermittent symptoms to
   suggest demand ischemia.
   -Will continue to monitor symptoms and treat as needed with TNG and f/u
   enzymes
   -Heparin D/C
d at this time
   3)Pneumonia
no new culture results, continue with Abx at this time.  He
   has bilateral pleural effisions with little evidence of unilateral
   predominance.   He has had an increase in WBC  count at this time which
   is of concern.
   -Continue with antibiotics
   -Will need to evaluate pleural effusions with thoracentesis for
   recurrent fever although it is suggestive of hydrostatic source.
   -Will increase steroid dosing as expected benefit for airways
   obstruction and possible source of vasodilatory state would be expected
   to benefit.
   4)Hepatic Metastatic Disease
Source is unclear, will need continued
   evaluation based on clinical stability.
   ICU Care
   Nutrition: NPO
NGT to be placed.
   Glycemic Control:
   Lines:
   Presep Catheter - [**2182-8-23**] 12:59 AM
   Arterial Line - [**2182-8-23**] 08:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2182-08-27 06:22:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress, sepsis, pneumonia
   24 Hour Events:
 EKG - At [**2182-8-26**] 09:46 AM
 EKG - At [**2182-8-27**] 01:20 AM
   [**8-26**] Echo: revealed mediastinal mass
   [**8-26**] Chest CT: mediastinal mass likely primary cancer, bilateral
   pleural effusions
   NG tube placement unsuccessful.
   Difficulty maintaining MAP > 60; and CVP > 8
   CVP responsive to fluid boluses (received total of 2.5 L overnight) but
   MAP remained low.  Pt then started on levophed drip.  Currently on 0.09
   Decline in mental status/ increased confusion overnight
   Meeting with granddaughter yesterday to discuss imaging results and
   goals of treatment.  Granddaughter and wife to return today to finalize
   goals of treatment.
   Heme/Onc consulted about medialstinal/lung mass and liver mets.  Due to
   dependence on pressors, chemotherapy would not be an option at this
   time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2182-8-25**] 08:28 AM
   Piperacillin - [**2182-8-25**] 10:51 AM
   Vancomycin - [**2182-8-25**] 10:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-8-26**] 11:57 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-8-26**] 08:48 AM
   Heparin Sodium (Prophylaxis) - [**2182-8-26**] 08:48 AM
   Morphine Sulfate - [**2182-8-27**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-27**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 117 (116 - 125) bpm
   BP: 93/53(69) {84/44(61) - 93/53(69)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 9 (3 - 10)mmHg
   Mixed Venous O2% Sat: 62 - 69
   Total In:
                                                                  4,377 mL
                                                                  1,153 mL
   PO:
   TF:
   IVF:
                                                                  4,377 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                    679 mL
                                                                    140 mL
   Urine:
                                                                    679 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,698 mL
                                                                  1,013 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.35/28/74/12/-8
   PaO2 / FiO2: 123
   Physical Examination
   Gen: moderate distress, increased respiratory effort, responds to name;
   answers yes/no questions
   CV: tachycardic, loud S1 S2, no M/R/G
   Lungs:  coarse bs bilaterally, moderate- severe respiratory effort on
   60% facemask
   Abd: soft, ntnd, decreased bs
   Ext: warm, dry, diffuse edema, 2+ radial pulses
   Labs / Radiology
   193 K/uL
   9.8 g/dL
   154 mg/dL
   2.5 mg/dL
   12 mEq/L
   4.7 mEq/L
   88 mg/dL
   119 mEq/L
   145 mEq/L
   29.5 %
   24.7 K/uL
        [image002.jpg]
                             [**2182-8-25**]  03:03 AM
                             [**2182-8-25**]  12:31 PM
                             [**2182-8-26**]  01:31 AM
                             [**2182-8-26**]  06:33 AM
                             [**2182-8-26**]  03:53 PM
                             [**2182-8-26**]  09:46 PM
                             [**2182-8-26**]  11:53 PM
                             [**2182-8-27**]  01:45 AM
                             [**2182-8-27**]  02:55 AM
                             [**2182-8-27**]  04:48 AM
   WBC
   21.8
   23.8
   23.6
   24.7
   Hct
   31.6
   29.7
   29.8
   29.5
   Plt
   [**Telephone/Fax (3) 158**]93
   Cr
   2.6
   2.5
   2.5
   2.5
   TropT
   0.02
   0.03
   TCO2
   15
   15
   13
   15
   15
   16
   Glucose
   138
   140
   136
   154
   Other labs: PT / PTT / INR:26.9/92.1/2.7, CK / CKMB /
   Troponin-T:118/6/0.03, ALT / AST:116/201, Alk Phos / T Bili:600/2.8,
   Amylase / Lipase:155/284, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:5.3 %, Mono:6.6 %, Eos:0.1 %, Lactic Acid:2.7 mmol/L, Albumin:2.1
   g/dL, LDH:495 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   [**2182-8-26**] Echo: Somewhat small LV cavity with hyperdynamic LV systolic
   function. Dilated and hypokinetic RV. Mild mitral regurgitation.
   There is a mediastinal mass compressing the heart. This mass appears to
   be in the left pleural space. It measures 6 x 4.5 cm approximately and
   has similar echo density to lung tissue. There may be focal areas of
   calcification within the mass. It is impinging on the posterior wall of
   the left atrium but does not seem to be impairing cardiac filling. Mild
   mitral regurgitation.
   Compared with the prior study (images reviewed) of [**2182-8-23**], the right
   ventricle appears mildly dilated and hypokinetic. There is now a large
   left pleural effusion. There is a mass seen within the effusion which
   was probably there on prior echo but not seen as it was iso-dense with
   the surrounding lung tissue. It can now be delineated because it is now
   surrounded by fluid.
   [**2182-8-26**] Noncontrast CT abd/pelvis:
   Large mass centered within the mediastinum in the chest w/ extension
   into L hilum.  Numerous bulky mediastinal LNs.  Bilateral pleural
   effusions with patchy airspace opacities, likely areas of aspiration.
   Cholelithiasis. Ascites.
   Assessment and Plan
   80 y/o M h/o CAD s/p CABG, CVA, HTN, COPD p/w atypical chest pain,
   sepsis, and hypotension in the setting of PNA and a new diagnosis of CA
   metastatic to the liver.
    #Respiratory distress: etiology likely multifactorial, aspiration PNA
   vs obstructive PNA vs bilateral effusions vs lung mass.
   - continue antibiotic treatment
   -cont. outpatient INH meds
   -albuterol nebs PRN
   -chest PT
   -INH moisturized air for dry mouth
   - titrate O2 to SpO2 >90%
   - serial ABG to evaluate need for intubation
   #Sepsis - Most likely from aspiration PNA, also consider
   post-obstructive PNA from ? primary lung CA, hepatobiliary source, C.
   diff; BP has been responsive to IVF boluses but remains low.    Pt is
   currently tachycardic in the face of hypotension.  Medialstinal mass
   may contribute to hemodynamic instability.
   -          titrate fluids to CVP 8-12 and UOP > 20 mL/hr
   -          Continue Levophed drip to maintain MAP >60
   -blood, urine Cx pending; will send C. diff toxin (but refrain from
   treating unless pos) and sputum Cx if possible
   -PNA: cont. vanco/zosyn for resp/GI cov
g; give final dose of azithro
   today IV due to patient
s difficulty with po intake
   -aspiration precautions
   -consider PE as obstructive cause for tachycardia in the face of RV
   dilitation; restart heparin gtt; cannot obtain contrast CT due to ARF
   at this time.
   #gap metabolic acidosis -  ABG c/w met acidosis + resp alkalosis;
   contributing etiologies incl. ARF, NS expansion acidosis, resolving
   lactic acidosis
   -LR for volume repletion in light of hyperchloremia
   -follow ABGs
   #Chest pain syndrome
 reversible lateral ST-depr. assoc. with atypical
   chest pain c/w demand ischemia in the setting of low diastolic BP
   sepsis - neg CE
s, absence of WMA on echo; tx with heparin gtt x 48 h;
   most recent episode of pain not assoc. with EKG changes and resolved
   with maalox
   -morphine, nitro SL PRN
   -cont. [**Last Name (LF) 120**], [**First Name3 (LF) 119**]  (per rectal due to pts difficulty with po intake)
   -telemetry
   #ARF - BUN/Cr ratio, low urine NA c/w pre-renal azotemia, however Cr
   has leveled off above b/l after aggressive volume repletion; cellular
   casts in sediment invokes AIN vs. ATN vs. GN; foley in place, draining
   so low c/f obstruction
   -goal UOP > 40 cc/hr
    -cont. volume repletion as above, consider repeat urine lytes,
   sediment, renal U/S if no further improvement with hydration
    -dose meds for GFR<20
   #Abnormal LFT's
 stable; diffuse metastatic disease (? esophageal vs.
   lung vs. colon primary) by RUQ U/S, but could not adequately visualize
   biliary tree. Low albumin/elevated INR suggest diminished synthetic
   function. Markedly elevated Alk phos/AST with T Bili 2X ULN suggests a
   cholestatic pattern of such as intrahepatic cholestasis (i.e. in the
   setting of sepsis) or biliary obstruction (given high amylase/lipase)
    -may pursue contrast CT vs. MRCP if pt becomes more clinically stable,
   renal fxn improved
   -consider head CT to eval for brain mets should pt require additional
   systemic anticoagulation
   #Dysphagia - c/f esophageal CA vs. lung CA with extrinsic esophageal
   compression (in light of weight loss, h/o ETOH/tob use); significant
   risk factor for aspiration; hiatal hernia appreciated on CXR
   - attempt NG tube placement today
    -GI C/S re: utility of EGD if becomes clinically more stable
   -aspiration precautions
   -consider speech/swallow C/S if becomes more stable
   #COPD - no si/sx acute exacerbation
   -admitted on prednisone taper; cont. as initial c/f AI in the setting
   of hypotension
   #Hyperlipidemia
    -holding crestor [**3-16**] elevated LFT's
   #Chronic back pain
    -lidocaine patch
    -avoid NSAIDs, ibuprofen since ARF and report of guaiac + on admission
    -avoid tylenol since LFTs elevated
 if required can have 2g max per
   day.
   #F/E/N
    -LR boluses (in light of hyperchloremia) to maintain CVP, MAP, UOP as
   above
    - NG tube placement will likely require endoscopy.  Pt currently too
   unstable to undergo endoscopy at this time.  If pt
s family express
   wishes for aggressive care will discuss the option of TPN.
   .
   #PPx - PPI, Heparin gtt
    #Access - R IJ, PIV; art-line
    #Contact/HCP - [**Name (NI) 121**], granddaughter ([**Telephone/Fax (1) 122**] (HCP)
    patient's home phone ([**Telephone/Fax (1) 123**]
   #Code status - FULL (per discussion with patient and HCP).  Meeting
   scheduled for today with HCP to discuss goals of treatment.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2182-8-23**] 12:59 AM
   Arterial Line - [**2182-8-23**] 08:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-08-27 09:31:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2182-8-26**] 09:46 AM
 EKG - At [**2182-8-27**] 01:20 AM
   ECHO done to eval EF and source of hypotension--preserved LVEF seen,
   impaired RV function seen and concern for left hilar mass noted.
   CT Chest done--6x8cm left hilar mass with extensive adenopathy seen.
   Left lower lobe collapse noted as well.
   Hypotension--recurrent and persistent across the day/night.  This is
   likely a combination of relative hypovolemia and impaired systemic
   vascular resistance secondary to infection, capillary leak and
   malignancy.  He has moved to the point of requiring pressor support to
   maintain adequate BP.
   Family updated in full with evolution of the worsening clinical status
   and findings on CT scan
                          History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2182-8-25**] 08:28 AM
   Piperacillin - [**2182-8-25**] 10:51 AM
   Vancomycin - [**2182-8-25**] 10:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2182-8-27**] 08:00 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-8-27**] 08:00 AM
   Morphine Sulfate - [**2182-8-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-27**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 118 (116 - 125) bpm
   BP: 82/45(61) {82/43(61) - 101/53(69)} mmHg
   RR: 25 (20 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 9 (4 - 10)mmHg
   Mixed Venous O2% Sat: 62 - 69
                                Total In:
                                                                  4,377 mL
                                                                  1,368 mL
   PO:
                                TF:
   IVF:
                                                                  4,377 mL
                                                                  1,368 mL
   Blood products:
   Total out:
                                                                    679 mL
                                                                    200 mL
   Urine:
                                                                    679 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,698 mL
                                                                  1,168 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.35/28/74/12/-8
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: ), Increased labored breathing
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   193 K/uL
   154 mg/dL
   2.5 mg/dL
   12 mEq/L
   4.7 mEq/L
   88 mg/dL
   119 mEq/L
   145 mEq/L
   29.5 %
   24.7 K/uL
        [image002.jpg]
                             [**2182-8-25**]  03:03 AM
                             [**2182-8-25**]  12:31 PM
                             [**2182-8-26**]  01:31 AM
                             [**2182-8-26**]  06:33 AM
                             [**2182-8-26**]  03:53 PM
                             [**2182-8-26**]  09:46 PM
                             [**2182-8-26**]  11:53 PM
                             [**2182-8-27**]  01:45 AM
                             [**2182-8-27**]  02:55 AM
                             [**2182-8-27**]  04:48 AM
   WBC
   21.8
   23.8
   23.6
   24.7
   Hct
   31.6
   29.7
   29.8
   29.5
   Plt
   [**Telephone/Fax (3) 158**]93
   Cr
   2.6
   2.5
   2.5
   2.5
   TropT
   0.02
   0.03
   TCO2
   15
   15
   13
   15
   15
   16
   Glucose
   138
   140
   136
   154
   Other labs: PT / PTT / INR:26.9/92.1/2.7, CK / CKMB /
   Troponin-T:118/6/0.03, ALT / AST:116/201, Alk Phos / T Bili:600/2.8,
   Amylase / Lipase:155/284, Differential-Neuts:88.0 %, Band:0.0 %,
   Lymph:5.3 %, Mono:6.6 %, Eos:0.1 %, Lactic Acid:2.7 mmol/L, Albumin:2.1
   g/dL, LDH:495 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   80 yo admit with new findings of substantial evidence of malignancy
   based on imaging but without tissue diagnosis.  The initial
   presentation of sepsis has hard to define source and he now has
   evolution of worsening hypotension despite fluid resuscitation to the
   point of moderate pulmonary edema and pleural effusions.  In this state
   he has had further cardiovascular compromise to the point of requiring
   pressor support.  In this setting and in light of the Chest CT scan
   findings we have requested input from Oncology to consider if any
   therapeutic intervention for possible diagnoses of malignancy would be
   available.  Given his current functional status chemotherapy would not
   be a reasonable option has been the suggestion with which we would
   concur.  We have updated the family extensively as to the difficult
   situation with clinical compromise which has failed to completely
   resolve with treatment of infection--this may be in part attributable
   to the compromised functional status but does leave him not a candidate
   for chemotherapy Rx and is not medically stable enough to tolerate
   definative biopsy to guide that therapy.  These issues have been
   discussed in detail with the patient and his family.
   1)Sepsis
   -Azithro/Vaco/Zosyn
   -Continue with hydrocortisone
   -Patient will have pressors titrated to MAP >65
   2)Respiratory Failure
   -face mask for O2 delivery
   -Patient will have fluid balance optimized and pressors used for BP
   support
   -Rx for PNA
   -[**Month (only) 8**] move to right side down position given left lower lobe collapse.
   -Pleural effusions are present but unlikely to be causing ventilatory
   compromise
   3)Tachycardia-
   -Heparin restarted with concern for PE
this remains possible but
   certainly alternative causes are present to explain tachycardia
will
   stop infusion if evidence of bleeding is seen.
   -Will look to minimize the B-agonists as possible triggers of the
   tachcardia in the setting of pressor support.
   4)Malignancy
strongly suggeted by imaging.  He has mediatinal mass
   which may be appropriate target for biopsy in general but in his
   current clinical condition is not considered medically stable to
   tolerate procedure.  In addition, should a diagnosis be made he would
   not be able to tolerate chemotherapy which would not be offered given
   his current clinical status.
   5)ICU
Patient with worsening clinical status despite optimal efforts at
   treating reversible causes of his decline.  Have reached a point of
   inability to generate clinical improvement and in fact he has shown
   clinical decline.  Family meeting scheduled for today with the wife
   present to discuss grave prognosis and current goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2182-8-23**] 12:59 AM
   Arterial Line - [**2182-8-23**] 08:04 PM
   Prophylaxis:
   DVT: Boots
IV Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill